US06936612B2
4-[6-(8-Cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.093 g, 0.184 mmol) was dissolved in dichloromethane (3 mL) to which 2 N HCl in diethyl ether (2 mL) was added and the resulting mixture was stirred for 2 days. Additional 2 N HCl was added and stirring was continued for 16 hours. The solvent was removed to give 8-cyclopentyl-5-methyl-2-(5-piperazin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt as a yellow solid (0.080 g, 90.9%). 1H NMR δ (400 MHz, DMSO-d6) 9.92 (s, 2H), 8.85 (s, 1H), 8.02 (d, J=2.9 Hz, 1H), 7.91 (d, J=9.3 Hz, 1H), 7.78 (d, J=9.3 Hz, 1H), 6.33 (s, 1H), 5.79 (m, 1H), 3.40 (m, 4H), 3.22 (m, 4H), 2.39 (s, 3H), 2.20 (m, 2H), 1.91 (m, 2H), 1.74 (m, 2H), 1.56 (m, 2H).

reactant | 4-[6-(8-Cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.184 mmol, 0.093 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C=C2C)=O)C2CCCC2 | C27H35N7O3
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | HCl | 2 N | Cl | ClH
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | HCl | 2 N | Cl | ClH
product | 8-cyclopentyl-5-methyl-2-(5-piperazin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | 0.080 g, 90.9% | Cl.C1(CCCC1)N1C(C=C(C2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)C)=O | InChI=1S/C22H27N7O.ClH/c1-15-12-20(30)29(16-4-2-3-5-16)21-18(15)14-25-22(27-21)26-19-7-6-17(13-24-19)28-10-8-23-9-11-28;/h6-7,12-14,16,23H,2-5,8-11H2,1H3,(H,24,25,26,27);1H
